US05026856
7-(2-isoindolinyl)-1-ethyl-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
177 mg of 1-ethyl-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, 250 mg of isoindoline, and 1.5 ml of anhydrous DMF were processed in the same manner as in Example 2 to produce 110 mg of the target compound.

reactant | 1-ethyl-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 177 mg | C(C)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C12H9F2NO3
reactant | isoindoline | 250 mg | C1NCC2=CC=CC=C12 | C8H9N
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 7-(2-isoindolinyl)-1-ethyl-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 110 mg | C1N(CC2=CC=CC=C12)C1=C(C=C2C(C(=CN(C2=C1)CC)C(=O)O)=O)F | C20H17FN2O3
